US08835423B2
Step 2: 4-bromo-3-(difluoromethyl)-5-methyl-1H-pyrazole
To a solution of 5-(difluoromethyl)-3-methyl-4,5-dihydro-1H-pyrazol-5-ol (1.00 g, 6.66 mmol) in methylene chloride (20 mL) was added bromine (0.43 mL, 8.3 mmol) dropwise. The reaction was stirred at 25° C. for 3 h. and then quenched with a Na2S2O4 solution and neutralized with NaHCO3. The reaction was extracted with dichloromethane and the organic extracts were washed with water, brine, dried (MgSO4), and concentrated in vacuo. 1H NMR (CDCl3): δ 6.56-6.82 (t, 1H), 2.33 (s, 3H). Mass spec(EI) m/z=211&213 (M+1).

reactant | 5-(difluoromethyl)-3-methyl-4,5-dihydro-1H-pyrazol-5-ol | 6.66 mmol, 1.00 g | FC(C1(CC(=NN1)C)O)F | C5H8F2N2O
reactant | bromine | 8.3 mmol, 0.43 mL | BrBr | Br2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-3-(difluoromethyl)-5-methyl-1H-pyrazole | BrC=1C(=NNC1C)C(F)F | C5H5BrF2N2
